US05693655
3-[1-(3-(indol-3-yl)propyl)-4-piperidyl]-5-methoxyindole, hydrochloride;
of 3-(3-chloropropyl)-5-methoxyindole with 4-(5,6-methylenedioxyindol-3-yl)piperidine:

reactant | 3-(3-chloropropyl)-5-methoxyindole | ClCCCC1=CNC2=CC=C(C=C12)OC | C12H14ClNO
reactant | 4-(5,6-methylenedioxyindol-3-yl)piperidine | C1OC=2C=C3C(=CNC3=CC2O1)C1CCNCC1 | C14H16N2O2
product | 3-[1-(3-(indol-3-yl)propyl)-4-piperidyl]-5-methoxyindole, hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CCCN1CCC(CC1)C1=CNC2=CC=C(C=C12)OC | InChI=1S/C25H29N3O.ClH/c1-29-20-8-9-25-22(15-20)23(17-27-25)18-10-13-28(14-11-18)12-4-5-19-16-26-24-7-3-2-6-21(19)24;/h2-3,6-9,15-18,26-27H,4-5,10-14H2,1H3;1H
